US06545017B1
N-[(4-{2-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]ethyl}piperidin-1-yl)carbonothioyl]-2-furamide
Using the method of Examples 54-65, 2-furoylisothiocyanate was reacted with 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 485.2357.

reactant | 2-furoylisothiocyanate | O1C(=CC=C1)C(=O)N=C=S | C6H3NO2S
reactant | 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCNCC1 | C18H29N5O
product | N-[(4-{2-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]ethyl}piperidin-1-yl)carbonothioyl]-2-furamide | NC1=NC(=C(C2=C1N=C(N2CCC2CCN(CC2)C(=S)NC(=O)C=2OC=CC2)COCC)C)C | C24H32N6O3S
